US06492385B2
To a dry flask is added methyl 1-methyl-1H-pyrrole-2-carboxylate (12.0 g, 86.4 mmol) and 150 mL of dry CH2Cl2, and the flask is wrapped in foil and purged with nitrogen. N-bromosuccinimide (16.2 g, 90.7 mmol) is added in one portion and the mixture is stirred at room temperature for 0.5 h. The reaction mixture is washed with water (50 mL) and brine (50 mL), dried over MgSO4, filtered, and concentrated under reduced pressure. Fractional distillation gives 12.0 g of methyl 5-bromo-1-methyl-1H-pyrrole-2-carboxylate as a yellow oil (64% yield). MS for C7H8NO2Br (ESI) (M)+ m/z 217.1.

reactant | methyl 1-methyl-1H-pyrrole-2-carboxylate | 86.4 mmol, 12.0 g | CN1C(=CC=C1)C(=O)OC | C7H9NO2
reactant | N-bromosuccinimide | 90.7 mmol, 16.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | methyl 5-bromo-1-methyl-1H-pyrrole-2-carboxylate | 12.0 g, 64% yield | BrC1=CC=C(N1C)C(=O)OC | C7H8BrNO2
